US04000153
In the manner given in Example 4, 2'-chloro-2-(3-methyl-4H-1,2,4-triazol-4-yl)benzophenone, paraformaldehyde and xylene are warmed under nitrogen to about 122° C. to give 2'-chloro-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone.

reactant | 2'-chloro-2-(3-methyl-4H-1,2,4-triazol-4-yl)benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC=C1)N1C(=NN=C1)C)=O | C16H12ClN3O
reactant | paraformaldehyde | C=O | CH2O
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2'-chloro-2-[3-(hydroxymethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | ClC1=C(C=CC=C1)C(C1=C(C=CC=C1)N1C(=NN=C1C)CO)=O | C17H14ClN3O2
